US07947691B2
3-Hydroxy-6-phenyl-1H-thieno[3,2-d]pyrimidine-2,4-dione
3-Amino-5-phenyl-thiophene-2-carboxylic acid ethyl ester was converted to 3-(2,4-Dimethoxy-benzyloxy)-6-phenyl-1H-thieno[3,2-d]pyrimidine-2,4-dione via general procedure A1. The intermediate was deprotected via general procedure D1 to give the title compound. 1H NMR (DMSO-d6) δ 10.50 (bs, 1H), 9.04 (s, 1H), 7.76-7.45 (m, 5H); Electrospray MS: 259 (M−H); retention time: 1.27 min.

reactant | 3-Amino-5-phenyl-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C13H13NO2S
reactant | 3-(2,4-Dimethoxy-benzyloxy)-6-phenyl-1H-thieno[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)SC(=C3)C3=CC=CC=C3)=O)C=CC(=C1)OC | C21H18N2O5S
product | 3-Hydroxy-6-phenyl-1H-thieno[3,2-d]pyrimidine-2,4-dione | ON1C(NC2=C(C1=O)SC(=C2)C2=CC=CC=C2)=O | C12H8N2O3S
